US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
To mixture of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (12.0 g, 34.96 mmol) and PdCl2(dppf) (1.28 g, 1.75 mmol) is added a 0.5 M solution of 3-methyl-2-thienylzinc bromide in THF (100 mL, 50.0 mmol). The mixture is stirred at 65° C. overnight, diluted with EtOAc (500 mL), washed with 10% citric acid (500 mL), water (400 mL), brine (400 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (10%-20% EtOAc/hexane gradient) furnish the title compound (8.83 g, 28.17 mmol, 81%). 1H NMR (CDCl3), δ 0.92 (t, J=7.4 Hz, 6H), 1.78-1.95 (m, 4H), 2.18 (s, 3H), 2.50 (s, 3H), 2.54 (s, 3H), 3.33-3.43 (m, 1H), 6.69 (s, 1H), 7.06 (d, J=4.9 Hz, 1H), 7.46 (d, J=4.9 Hz, 1H). LC/MS (m/z): calcd. for C18H23N3S (M+H)+: 314.6; found: 314.2.

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 34.96 mmol, 12.0 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 3-methyl-2-thienylzinc bromide | [Br-].CC1=C(SC=C1)[Zn+]
reactant | THF | 50.0 mmol, 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 1.75 mmol, 1.28 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 28.17 mmol, 8.83 g, 81% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=CC2C | C18H23N3S
